US07977331B1
To a solution of methyl 2-[2-(2-chloroethoxy)phenyl]-3-cyclohexyl-1H-indole-6-carboxylate (180 mg, 0.44 mmol) in N,N-dimethylformamide (6 ml) was added sodium hydride (20 mg, 0.49 mmol) under ice-cooling, and the mixture was stirred at room temperature for 24 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and diisopropyl ether was added to the residue. The precipitated solid was collected by filtration, washed with diisopropyl ether and dried in vacuo to give methyl 12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (70 mg, yield 42.3%).

reactant | methyl 2-[2-(2-chloroethoxy)phenyl]-3-cyclohexyl-1H-indole-6-carboxylate | 0.44 mmol, 180 mg | ClCCOC1=C(C=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C24H26ClNO3
reactant | sodium hydride | 0.49 mmol, 20 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | methyl 12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 70 mg, yield 42.3% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4)C=C(C=C2)C(=O)OC | C24H25NO3
